US08058444B2
Methyl 3-(4-(pyridin-2-yloxymethyl)-phenyl)-oxiran-2-carboxylate
To a mixture of 4-(pyridin-2-yloxymethyl)-benzaldehyde described in Preparation Example 1-3-2 (24.8 g) and tetrahydrofuran (160 mL) was added methyl chloroacetate (10.2 mL) at −15° C, and sodium methoxide (23.7 mL, 28% methanol solution) was then added thereto at the same temperature. The reaction mixture was stirred at 0° C for one hour, and then was stirred for two hours at room temperature. The reaction mixture was added to ice water (800 mL) containing acetic acid (6 mL), and the reaction mixture was allowed to room temperature. To the reaction mixture was added ethyl acetate, and extracted, then, the organic layer was separated, washed with saturated sodium chloride water, and dried over anhydrous magnesium sulfate. The solvent thereof was evaporated under a reduced pressure to obtain the title compound (30.2 g).

reactant | 4-(pyridin-2-yloxymethyl)-benzaldehyde | N1=C(C=CC=C1)OCC1=CC=C(C=O)C=C1 | C13H11NO2
reactant | tetrahydrofuran | 160 mL | O1CCCC1 | C4H8O
reactant | methyl chloroacetate | 10.2 mL | ClCC(=O)OC | C3H5ClO2
reactant | sodium methoxide | 23.7 mL | C[O-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
product | Methyl 3-(4-(pyridin-2-yloxymethyl)-phenyl)-oxiran-2-carboxylate | 30.2 g | N1=C(C=CC=C1)OCC1=CC=C(C=C1)C1C(O1)C(=O)OC | C16H15NO4
